US06642389B2
i] (S)-2-Methoxy-3-(4-{2-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethoxy}-naphthalen-1-yl)-propionic acid
0.698 g of the above prepared (S)-4-benzyl-3-[(S)-2-methoxy-3-(4-{2-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethoxy}-naphthalen-1-yl)-propionyl]-oxazolidin-2-one (1.03 mmol) was dissolved in 7.5 ml of THF and treated with 2.57 ml of 1N NaOH (2.5 eq.). The reaction mixture was kept at 0° and progress of the hydrolysis followed by TLC. After 1 h the reaction mixture was poured onto crashed ice and extracted with ether to remove the chiral auxiliary. The aqueous layer was then acidified with HCl, extracted twice with AcOEt, washed with water, dried over magnesium sulfate, and evaporated to dryness. Crystallization from AcOEt yielded finally 0.356 g of the title product as white crystals of mp. 167-68°.

reactant | (S)-4-benzyl-3-[(S)-2-methoxy-3-(4-{2-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethoxy}-naphthalen-1-yl)-propionyl]-oxazolidin-2-one | 1.03 mmol | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H](CC1=CC=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)OC)=O | C37H33F3N2O6
reactant | NaOH | 1N, 2.57 ml, 2.5 eq. | [OH-].[Na+]
reactant | THF | 7.5 ml | C1CCOC1 | C4H8O
product | (S)-2-Methoxy-3-(4-{2-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethoxy}-naphthalen-1-yl)-propionic acid | 0.356 g | CO[C@H](C(=O)O)CC1=CC=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C27H24F3NO5
